US04299831
A solution of 4.083 g of m-chloroaniline, 9.71 g of triethylamine and 65 ml of ethyl acetate was poured over 15 minutes at 8° C.-10° C. into a solution of 11.96 g of 2,8-bis-(trifluoromethyl)-4-hydroxy-3-quinoline-carboxylic acid chloride in 130 ml of ethyl acetate with violent stirring and the temperature was allowed to return to room temperature. The mixture was refluxed for one hour and was cooled and vacuum filtered. The filtrate was washed with water, was dried and evaporated to dryness at 40° C. under reduced pressure to obtain 17.14 g of a triethylamine salt. The residue was dissolved in 2 N sodium hydroxide solution which was then heated to reflux and cooled to room temperature. The mixture was vacuum filtered and the recovered product was dissolved in water. The solution was adjusted to a pH of 1 by addition of 20% hydrochloric acid and the mixture was vacuum filtered. The recovered product was crystallized from benzene to obtain 7.599 g of 2,8-bis-(trifluoromethyl)-4-hydroxy-N-(3-chlorophenyl)-3-quinolinecarboxamide melting at 152° C.

reactant | m-chloroaniline | 4.083 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | triethylamine | 9.71 g | C(C)N(CC)CC | C6H15N
reactant | 2,8-bis-(trifluoromethyl)-4-hydroxy-3-quinoline-carboxylic acid chloride | 11.96 g | FC(C1=NC2=C(C=CC=C2C(=C1C(=O)Cl)O)C(F)(F)F)(F)F | C12H4ClF6NO2
solvent | ethyl acetate | 130 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | ethyl acetate | 65 ml | C(C)(=O)OCC | C4H8O2
product | 2,8-bis-(trifluoromethyl)-4-hydroxy-N-(3-chlorophenyl)-3-quinolinecarboxamide | 7.599 g | FC(C1=NC2=C(C=CC=C2C(=C1C(=O)NC1=CC(=CC=C1)Cl)O)C(F)(F)F)(F)F | C18H9ClF6N2O2
